US04789681
(c) (1',4'-cis or trans) 2-(R)-amino-2-(4'-guanidinocyclohexyl)-acetic acid dihydrochloride
5 g of (1',4' cis or trans) 2-(R)-acetamido-2-(4'-guanidinocyclohexyl)-acetic acid hydrochloride dissolved in 50.5 ml of 2N hydrochloric acid are refluxed for 2 hours. The mixture is concentrated and cooled. The obtained precipitate is filtered, yielding 4.6 g of a product.

reactant | 2-(R)-acetamido-2-(4'-guanidinocyclohexyl)-acetic acid hydrochloride | Cl.C(C)(=O)N[C@@H](C(=O)O)C1CCC(CC1)NC(=N)N
solvent | hydrochloric acid | 2N, 50.5 ml | Cl | ClH
product | 2-(R)-amino-2-(4'-guanidinocyclohexyl)-acetic acid dihydrochloride | 4.6 g | Cl.Cl.N[C@@H](C(=O)O)C1CCC(CC1)NC(=N)N | InChI=1S/C9H18N4O2.2ClH/c10-7(8(14)15)5-1-3-6(4-2-5)13-9(11)12;;/h5-7H,1-4,10H2,(H,14,15)(H4,11,12,13);2*1H/t5?,6?,7-;;/m1../s1
